US07884210B2
3-[2-(3-Butyl-3-cyclohexyl-ureido)-thiazol-5-ylsulfanyl]-propionic acid
Prepared as described for the synthesis of [2-(3-cyclohexyl-3-phenethyl-ureido)-thiazol-5-ylsulfanyl]-acetic acid, from n-butylamine, cyclohexanone and 2-amino-thiazol-5-ylsulfanyl)-propionic acid ethyl ester.

reactant | [2-(3-cyclohexyl-3-phenethyl-ureido)-thiazol-5-ylsulfanyl]-acetic acid | C1(CCCCC1)N(C(NC=1SC(=CN1)SCC(=O)O)=O)CCC1=CC=CC=C1 | C20H25N3O3S2
reactant | n-butylamine | C(CCC)N | C4H11N
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
reactant | propionic acid ethyl ester | C(C)OC(CC)=O | C5H10O2
product | 3-[2-(3-Butyl-3-cyclohexyl-ureido)-thiazol-5-ylsulfanyl]-propionic acid | C(CCC)N(C(NC=1SC(=CN1)SCCC(=O)O)=O)C1CCCCC1 | C17H27N3O3S2
